US04824859
(b) N-(4-Chlorophenyl)-4,5-dihydro-1-phenyl-1H-pyrazol-3-amine
3-Chloro-4,5-dihydro-1-phenylpyrazole (1.8 g) and 4-chloroaniline (3.8 g) were fused under N2 at 140° for 20 minutes. The melt was cooled and the solid dissolved in CH2Cl2, washed with 1% HCl (×3), water, dried (Na2SO4), then absorbed into silica and column chromatographed using first 1:1 petrol: ether and then ether to give the title product as a yellow powder (1.0 g), (37%), m.p. 144°-7°.

reactant | 3-Chloro-4,5-dihydro-1-phenylpyrazole | 1.8 g | ClC1=NN(CC1)C1=CC=CC=C1 | C9H9ClN2
reactant | 4-chloroaniline | 3.8 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(4-Chlorophenyl)-4,5-dihydro-1-phenyl-1H-pyrazol-3-amine | 1.0 g, 37% | ClC1=CC=C(C=C1)NC1=NN(CC1)C1=CC=CC=C1 | C15H14ClN3
